US07381350B2
Octyloxybenzoic acid chloride 12.5 g was added dividing into several times to a tetrahydrofuran (100 ml) solution of 2,7-dihydroxy-9-methylfluorene 10 g and pyridine 8 g, and the solution was refluxed for 5 hours. 5% hydrochloric acid 50 ml was added to the reaction mixture, and the solution was extracted with methylene chloride. The extract was washed with 5% hydrochloric acid until pH became acidic, and then it was washed with a saturated sodium hydrogencarbonate aqueous solution and dried on anhydrous magnesium sulfate. A residue obtained by distilling the solvent off was refined by silica gel column chromatography (eluent solvent: methylene chloride) to obtain 10 g of 2-(4-octyloxybenzoyloxy)-7-hydroxy-9-methylfluorene (J1). Melting point: 140 to 143° C.

reactant | Octyloxybenzoic acid chloride | 12.5 g | C(CCCCCCC)OC1=C(C(=O)Cl)C=CC=C1 | C15H21ClO2
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | 2,7-dihydroxy-9-methylfluorene | 10 g | OC1=CC=2C(C3=CC(=CC=C3C2C=C1)O)C | C14H12O2
reactant | hydrochloric acid | 50 ml | Cl | ClH
solvent | pyridine | 8 g | N1=CC=CC=C1 | C5H5N
product | 2-(4-octyloxybenzoyloxy)-7-hydroxy-9-methylfluorene | 10 g | C(CCCCCCC)OC1=CC=C(C(=O)OC2=CC=3C(C4=CC(=CC=C4C3C=C2)O)C)C=C1 | C29H32O4
